### PR TITLE
[Merged by Bors] - feat(ComplexAnalysis): Cauchy's Integral Formula for Higher Order Derivatives

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR adds the following `iteratedDeriv_eq_smul_circleIntegral` and `norm_iteratedDeriv_le_aux`. The first one expresses the `n`-th order derivative of a differentiable function as a circle integral. The second one proves an estimate for the `n`-th order derivative.

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Cauchy's.20integral.20formula

[#mathlib4 > Different Expressions of Cauchy's integral formula](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Different.20Expressions.20of.20Cauchy's.20integral.20formula/with/545945033)

I also used Cauchy's estimate over here: [#mathlib4 > Tychonov's Counterexample for the Heat Equation](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tychonov's.20Counterexample.20for.20the.20Heat.20Equation/with/547367912)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 1]
```diff
@@ -47,6 +47,14 @@ theorem deriv_eq_smul_circleIntegral [CompleteSpace F] {R : ℝ} {c : ℂ} {f :
   refine (hf.hasFPowerSeriesOnBall hR).hasFPowerSeriesAt.deriv.trans ?_
   simp only [cauchyPowerSeries_apply, one_div, zpow_neg, pow_one, smul_smul, zpow_two, mul_inv]
 
+theorem iteratedDeriv_eq_smul_circleIntegral [CompleteSpace F] {R : ℝ} {c : ℂ} {n : ℕ} {f : ℂ → F}
+    (hR : 0 < R) (hf : DiffContOnCl ℂ f (ball c R)) : iteratedDeriv n f c = n.factorial  •
+    (2 * π * I : ℂ)⁻¹ • ∮ z in C(c, R), (z - c)⁻¹ ^ n • (z - c)⁻¹ • f z := by
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/Liouville.lean]: Any reason this isn't 

```suggestion
    (2 * π * I : ℂ)⁻¹ • ∮ z in C(c, R), (z - c) ^ (-(n + 1) : ℤ) • f z := by
```
following `deriv_eq_smul_circleIntegral`'s format?

File: Mathlib/Analysis/Complex/Liouville.lean
Comment (wwylele) [inline Mathlib/Analysis/Complex/Liouville.lean]: This TODO can be removed now

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 2]
```diff
@@ -61,6 +69,26 @@ theorem norm_deriv_le_aux [CompleteSpace F] {c : ℂ} {R C : ℝ} {f : ℂ → F
       (circleIntegral.norm_two_pi_i_inv_smul_integral_le_of_norm_le_const hR.le this)
     _ = C / R := by rw [mul_div_left_comm, div_self_mul_self', div_eq_mul_inv]
 
+theorem norm_iteratedDeriv_le_aux [CompleteSpace F] {c : ℂ} {R C : ℝ} {n : ℕ} {f : ℂ → F}
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/Liouville.lean]: I am not sure what the existing `norm_deriv_le_aux` is meant to be, but it feels it was intended to be a private theorem, and the public counterpart is `norm_deriv_le_of_forall_mem_sphere_norm_le`. I think if you are adding a new public theorem, it probably should be `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le`, and similarly without `[CompleteSpace F]`. `norm_iteratedDeriv_le_aux` can stay as a private theorem

File: Mathlib/Analysis/Complex/LocallyUniformLimit.lean [hunk 3]
```diff
@@ -39,10 +40,20 @@ holomorphic, because it depends continuously on `f` for the uniform topology. -/
 noncomputable def cderiv (r : ℝ) (f : ℂ → E) (z : ℂ) : E :=
   (2 * π * I : ℂ)⁻¹ • ∮ w in C(z, r), ((w - z) ^ 2)⁻¹ • f w
 
+noncomputable def citeratedDeriv (n : ℕ) (r : ℝ) (f : ℂ → E) (z : ℂ) : E :=
+  (2 * π * I : ℂ)⁻¹ • ∮ w in C(z, r), (w - z)⁻¹ ^ n • (w - z)⁻¹ • f w
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/LocallyUniformLimit.lean]:
```suggestion
  (2 * π * I : ℂ)⁻¹ • ∮ w in C(z, r), ((w - z) ^ (n + 1))⁻¹ • f w
```

File: Mathlib/Analysis/Complex/LocallyUniformLimit.lean [hunk 4]
```diff
@@ -202,3 +213,4 @@ theorem logDeriv_tendsto {ι : Type*} {p : Filter ι} {f : ι → ℂ → ℂ} {
 end LogDeriv
 
 end Complex
+#min_imports
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/LocallyUniformLimit.lean]: Leftover?

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean]: The reason is that [cauchyPowerSeries](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/CircleIntegral.html#cauchyPowerSeries) uses the formula I used in this PR. I thought that this is a convention.

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean]: I also mentioned this in [#Is there code for X? > Cauchy's integral formula](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Cauchy's.20integral.20formula/with/544430202). Somehow I can't prove `norm_iteratedDeriv_le_aux` without the completeness assumption.

File: Mathlib/Analysis/Complex/LocallyUniformLimit.lean (hunk 4 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/LocallyUniformLimit.lean]: Thanks for detecting this.

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean]: I guess the main reason is that for the first order derivative, since our assumption include the differentiability of `f : ℂ -> F`, we can know that the derivative of `e ∘  f` is equal to `e ∘ (deriv f)`, where `e` is the map from `F` to the completion of `F`.  We can then use the fact that `e` is an isometry to obtain our result. For the higher order derivatives, we don't even know whether they exists for `f` without the completeness assumption, which then makes it hard to compute the higher order derivatives of `e ∘  f`.

Comment (wwylele) [reply Mathlib/Analysis/Complex/Liouville.lean]: I see. In that case, I think you can just rename this theorem by removing `aux`, which is usually reserved for private theorems

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Analysis/Complex/Liouville.lean]: Perhaps there is some convention/math here I don't understand yet. I'll let other comment  on this

File: Mathlib/Analysis/Complex/LocallyUniformLimit.lean (hunk 3 above)
Comment (wwylele) [reply Mathlib/Analysis/Complex/LocallyUniformLimit.lean]: (Same question about the convention above. Feel free to disregard if this is to follow a convention)

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/Complex/Liouville.lean]: This formulation seems curious to me too. In my PR #30512 I used `∮ z in C(c, R), (1 / (z - c) ^ (n + 1)) • f z`.

**Comment by loefflerd** [comment]
It appears that this PR and my PR #30512 are proving very similar results. 

The only real differences I could spot were:

- My PR has a version of the theorem allowing non-differentiability at a countable set; but I'm not convinced that's actually useful for anything. (I was just following the existing formulations for the n = 0 case, but Riemann's removable singularity criterion shows that this doesn't really add any extra generality anyway. The "base" n = 0 Cauchy integral formula is needed for the proof of the removable-singularity criterion, so it's important to allow the possibility of some bad set there; but the version for derivatives isn't.) 
- This PR has an application to bounding the higher derivatives at `c`. That isn't in my PR; but may I ask if you have a specific application for it in mind? The existing lemma `Complex.norm_deriv_le_aux` has a specific role in the proof of Liouville's theorem, but I'm not aware of any other uses for it beyond that (it is not used anywhere else in mathlib itself other than Liouville). So what would the higher-derivative version be useful for? I think this is probably why the first-derivative version has "aux" in its name: to signal that it is not supposed to be generally interesting outside this one particular context. 

In all: I'm happy to close my PR and let this one take its place. I would, however, suggest moving these new results from `Liouville.lean` into `CauchyIntegral.lean`, and also moving the existing `Complex.deriv_eq_smul_circleIntegral`, which I think is in the wrong place currently.

**Comment by CoolRmal** [comment]
@loefflerd Thank you for your comment. I'll include your version of Cauchy's integral formula that allows the non-differentiability at a countable set in my PR and reorganize some of these theorems.

I am pretty sure that the bound on the higher derivatives is useful in complex analysis. One simple application is to show that an entire function dominated by a polynomial is a polynomial (https://math.stackexchange.com/questions/143468/entire-function-bounded-by-a-polynomial-is-a-polynomial). Another application is that if $f_n$ is a sequence of entire functions that converges locally uniformly to $f$, then the $k$-th derivatives $f^{(k)}_n$ also converges locally uniformly to $f^{(k)}$.
Rightnow I am using this bound to construct a solution to the heat equation given by Tychonov (https://mathoverflow.net/questions/356573/the-solutions-of-the-heat-equation-from-0-datum).

**Comment by loefflerd** [comment]
Any progress on this? Let me know if I can help move things forward. (I need this version of Cauchy's formula for #30089 and other modular-forms PR's.)

**Comment by CoolRmal** [comment]
WIP

**Comment by CoolRmal** [comment]
@loefflerd This PR is now ready to be reviewed.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 5]
```diff
@@ -3,10 +3,7 @@ Copyright (c) 2021 Yury Kudryashov. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Yury Kudryashov
 -/
-import Mathlib.Analysis.Analytic.Uniqueness
 import Mathlib.Analysis.Calculus.DiffContOnCl
-import Mathlib.Analysis.Calculus.DSlope
-import Mathlib.Analysis.Calculus.FDeriv.Analytic
 import Mathlib.Analysis.Complex.ReImTopology
 import Mathlib.Analysis.Real.Cardinality
 import Mathlib.MeasureTheory.Integral.CircleIntegral
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean:12]: It seems quite surprising that removing these imports does not break anything, since you are not changing any of the existing code in the file (just adding more new stuff). This is not in any way a criticism of your PR; rather, it suggests that our "check for redundant imports" CI step doesn't seem to have been working optimally.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 6]
```diff
@@ -650,4 +686,71 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+lemma circleIntegral_one_div_sub_center_pow_smul_of_differentiable_on_off_countable
+    (h0 : 0 < R) (n : ℕ) (hs : s.Countable)
+    (hc : ContinuousOn f (closedBall c R)) (hd : ∀ z ∈ ball c R \ s, DifferentiableAt ℂ f z) :
+    (∮ z in C(c, R), (1 / (z - c) ^ (n + 1)) • f z)
+      = (2 * π * I / n.factorial) • iteratedDeriv n f c := by
+  have := hasFPowerSeriesOnBall_of_differentiable_off_countable (R := ⟨R, h0.le⟩) hs hc hd h0
+      |>.factorial_smul 1 n
+  rw [iteratedFDeriv_apply_eq_iteratedDeriv_mul_prod, Finset.prod_const_one, one_smul] at this
+  rw [← this, cauchyPowerSeries_apply, ← Nat.cast_smul_eq_nsmul ℂ, ← mul_smul, ← mul_smul,
+    div_mul_cancel₀ _ (mod_cast n.factorial_ne_zero), mul_inv_cancel₀ two_pi_I_ne_zero, one_smul]
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
    div_mul_cancel₀ _ (mod_cast n.factorial_ne_zero), mul_inv_cancel₀ two_pi_I_ne_zero]
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 7]
```diff
@@ -650,4 +686,71 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+-/
+
+variable {R : ℝ} {f : ℂ → E} {c : ℂ} {s : Set ℂ}
+
+/-- **Cauchy integral formula for derivatives**, assuming `f` is continuous on a closed ball and
+differentiable on its interior away from a countable set. -/
+lemma circleIntegral_one_div_sub_center_pow_smul_of_differentiable_on_off_countable
+    (h0 : 0 < R) (n : ℕ) (hs : s.Countable)
+    (hc : ContinuousOn f (closedBall c R)) (hd : ∀ z ∈ ball c R \ s, DifferentiableAt ℂ f z) :
+    (∮ z in C(c, R), (1 / (z - c) ^ (n + 1)) • f z)
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: It is a little annoying that we have to keep putting `∮ z in C(c, R), ...` in brackets in order to stop the parser from eating the equals sign and trying to do a contour integral valued in `Prop`. 

This can be prevented by adjusting the notation precedence for `∮`: anything > 50 will bind more tightly than `=`. Probably it makes sense to use 60, matching the standard integral sign. Concretely, one should change the notation definition at [line 329 of CircleIntegral.lean](https://github.com/leanprover-community/mathlib4/blob/c6541c05ebd2fc0f106db01858adaf8e7a783a79/Mathlib/MeasureTheory/Integral/CircleIntegral.lean#L329) from `r:(scoped ...)` to `r:60:(scoped ...)`. 

(This is strictly optional, I am not trying to say that this should be a pre-requisite for the present PR to be merged; just that it would be welcomed if you felt like taking care of it.)

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 8]
```diff
@@ -33,37 +31,32 @@ local postfix:100 "̂" => UniformSpace.Completion
...
-TODO: add a version for higher derivatives. -/
-theorem deriv_eq_smul_circleIntegral [CompleteSpace F] {R : ℝ} {c : ℂ} {f : ℂ → F} (hR : 0 < R)
-    (hf : DiffContOnCl ℂ f (ball c R)) :
-    deriv f c = (2 * π * I : ℂ)⁻¹ • ∮ z in C(c, R), (z - c) ^ (-2 : ℤ) • f z := by
-  lift R to ℝ≥0 using hR.le
-  refine (hf.hasFPowerSeriesOnBall hR).hasFPowerSeriesAt.deriv.trans ?_
-  simp only [cauchyPowerSeries_apply, one_div, zpow_neg, pow_one, smul_smul, zpow_two, mul_inv]
-
-theorem norm_deriv_le_aux [CompleteSpace F] {c : ℂ} {R C : ℝ} {f : ℂ → F} (hR : 0 < R)
+private theorem norm_deriv_le_aux [CompleteSpace F] {c : ℂ} {R C : ℝ} {f : ℂ → F} (hR : 0 < R)
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean:62]: As currently written, there's a bit of duplication here between the proofs of `norm_deriv_le_aux` and `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le`. 

This can be avoided if you re-order things to put `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le` before `norm_deriv_le_aux`. Then you can reduce the proof of `norm_deriv_le_aux` to one line:
```lean
private theorem norm_deriv_le_aux [CompleteSpace F] {c : ℂ} {R C : ℝ} {f : ℂ → F} (hR : 0 < R)
    (hf : DiffContOnCl ℂ f (ball c R)) (hC : ∀ z ∈ sphere c R, ‖f z‖ ≤ C) :
    ‖deriv f c‖ ≤ C / R := by
  simpa using norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le hR hf hC (n := 1)
```

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 9]
```diff
@@ -33,37 +31,32 @@ local postfix:100 "̂" => UniformSpace.Completion
...
     fun z (hz : ‖z - c‖ = R) => by
     simpa [-mul_inv_rev, norm_smul, hz, zpow_two, ← div_eq_inv_mul] using
       (div_le_div_iff_of_pos_right (mul_pos hR hR)).2 (hC z hz)
+  have hq : deriv f c = (2 * π * I)⁻¹ • ∮ z in C(c, R), (z - c) ^ (-2 : ℤ) • f z := by
+    calc
+      deriv f c = (2 * π * I)⁻¹ • (2 * π * I) • deriv f c := by
+                rw [smul_comm, smul_inv_smul₀]; simp
+              _ = (2 * π * I)⁻¹ • ∮ z in C(c, R), (1 / (z - c) ^ 2) • f z := by
+                congr; exact (DiffContOnCl.deriv_eq_smul_circleIntegral hR hf).symm
+              _ = (2 * π * I)⁻¹ • ∮ z in C(c, R), (z - c) ^ (-2 : ℤ) • f z := by field_simp
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean]: alternative proof (matter of taste really):
```suggestion
    rw [← inv_smul_smul₀ two_pi_I_ne_zero (deriv f c)]
    simp [← (DiffContOnCl.deriv_eq_smul_circleIntegral hR hf), zpow_ofNat]
```

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 10]
```diff
@@ -79,6 +72,41 @@ theorem norm_deriv_le_of_forall_mem_sphere_norm_le {c : ℂ} {R C : ℝ} {f : 
...
+  have hq : iteratedDeriv n f c = n.factorial  •
+    (2 * π * I : ℂ)⁻¹ • ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z := by
+    calc
+      iteratedDeriv n f c = n.factorial • (2 * π * I)⁻¹ • (2 * π * I / n.factorial) •
+        iteratedDeriv n f c := by
+        rw [← smul_assoc, nsmul_eq_mul, mul_comm, inv_mul_eq_div, ← inv_div,
+          smul_comm, smul_inv_smul₀]
+        simp [Nat.factorial_ne_zero]
+      _ = n.factorial • (2 * π * I)⁻¹ •  (∮ z in C(c, R), (1 / (z - c) ^ (n + 1)) • f z) := by
+                congr; exact (DiffContOnCl.circleIntegral_one_div_sub_center_pow_smul hR n hf).symm
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean]: Please keep indentation consistent inside `calc` blocks, it aids readability. 

If you're using `congr` followed by `exact`, it's worth trying whether `rw` (or `simp_rw`, `simp only` etc) can do it in one line:
```suggestion
        rw [← (DiffContOnCl.circleIntegral_one_div_sub_center_pow_smul hR n hf)]
```

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 11]
```diff
@@ -79,6 +72,41 @@ theorem norm_deriv_le_of_forall_mem_sphere_norm_le {c : ℂ} {R C : ℝ} {f : 
...
+      _ = n.factorial • (2 * π * I)⁻¹ • ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z := by simp
+  calc
+    ‖iteratedDeriv n f c‖ = ‖n.factorial • (2 * π * I)⁻¹ •
+      ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z‖ := congr_arg norm hq
+    _ ≤ n.factorial * (R * (C / (R ^ (n + 1)))) := by
+      simp only [RCLike.norm_nsmul (K := ℂ), nsmul_eq_mul]
+      have := (circleIntegral.norm_two_pi_i_inv_smul_integral_le_of_norm_le_const hR.le hp)
+      refine mul_le_mul_of_nonneg_left this (?_ : (0 : ℝ) ≤ n.factorial)
+      exact_mod_cast ((Nat.factorial_pos n).le)
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean]:
```suggestion
      rw [RCLike.norm_nsmul (K := ℂ), nsmul_eq_mul, mul_le_mul_iff_right₀ (by positivity)]
      exact circleIntegral.norm_two_pi_i_inv_smul_integral_le_of_norm_le_const hR.le hp
```

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 12]
```diff
@@ -79,6 +72,41 @@ theorem norm_deriv_le_of_forall_mem_sphere_norm_le {c : ℂ} {R C : ℝ} {f : 
...
+`n.factorial * C / R ^ n`. -/
+theorem norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le [CompleteSpace F] {c : ℂ} {R C : ℝ}
+    {n : ℕ} {f : ℂ → F} (hR : 0 < R) (hf : DiffContOnCl ℂ f (ball c R))
+    (hC : ∀ z ∈ sphere c R, ‖f z‖ ≤ C) :
+    ‖iteratedDeriv n f c‖ ≤ n.factorial * C / R ^ n := by
+  have hp : ∀ z ∈ sphere c R, ‖(z - c)⁻¹ ^ (n + 1) • f z‖ ≤ C / (R ^ n  * R) :=
+    fun z (hz : ‖z - c‖ = R) => by
+    have := (div_le_div_iff_of_pos_right (mul_pos (pow_pos hR n) hR)).2 (hC z hz)
+    simp [norm_smul, norm_pow, norm_inv, hz, ← div_eq_inv_mul]
+    exact this
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean]: You can introduce variables in a `have` statement, just like you can for theorems; then you don't need to intro them manually in the proof. Also, technically the `simp` here is non-terminal, which is against mathlib rules; but you can combine the `simp` and the following `exact` into a single statement with `simpa using`:
```suggestion
  have hp (z) (hz : ‖z - c‖ = R) : ‖(z - c)⁻¹ ^ (n + 1) • f z‖ ≤ C / (R ^ n  * R) := by
    simpa [norm_smul, hz, ← div_eq_inv_mul]
      using (div_le_div_iff_of_pos_right (mul_pos (pow_pos hR n) hR)).2 (hC z hz)
```

File: Mathlib/Analysis/Complex/Liouville.lean [hunk 13]
```diff
@@ -79,6 +72,41 @@ theorem norm_deriv_le_of_forall_mem_sphere_norm_le {c : ℂ} {R C : ℝ} {f : 
...
+        iteratedDeriv n f c := by
+        rw [← smul_assoc, nsmul_eq_mul, mul_comm, inv_mul_eq_div, ← inv_div,
+          smul_comm, smul_inv_smul₀]
+        simp [Nat.factorial_ne_zero]
+      _ = n.factorial • (2 * π * I)⁻¹ •  (∮ z in C(c, R), (1 / (z - c) ^ (n + 1)) • f z) := by
+                congr; exact (DiffContOnCl.circleIntegral_one_div_sub_center_pow_smul hR n hf).symm
+      _ = n.factorial • (2 * π * I)⁻¹ • ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z := by simp
+  calc
+    ‖iteratedDeriv n f c‖ = ‖n.factorial • (2 * π * I)⁻¹ •
+      ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z‖ := congr_arg norm hq
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Liouville.lean]: Alternative (not saying it's better, matter of taste):
```suggestion
      ∮ z in C(c, R), (z - c)⁻¹ ^ (n + 1) • f z‖ := by rw [hq]
```

**Review by loefflerd — COMMENTED** [review]
This is looking really good now! I've left some rather pedantic stylistic feedback that I think could improve it a little further, but nothing major.

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 9 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean]: This computation does not exist now as it reduces to a one line proof by following the comment above.

Comment (loefflerd) [reply Mathlib/Analysis/Complex/Liouville.lean]: I think a similar comment applies instead to the proof of `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le`.

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 8 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean:62]: I also made the variable `n : ℕ` explicit in `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le` so that I can just write 1 instead of `(n := 1)` in this one line proof.

File: Mathlib/Analysis/Complex/Liouville.lean (hunk 9 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Complex/Liouville.lean]: Yes I made similar changes to `norm_iteratedDeriv_le_of_forall_mem_sphere_norm_le`

**Comment by loefflerd** [comment]
Looks good to me now! If you're happy with it, please remove the "awaiting-author" label; then I'll take a final look and send it to the maintainers.

**Comment by loefflerd** [comment]
maintainer merge

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean:12]: I believe what's happening here is that there are two ways for an import to be redundant:

1. Its contents are not needed
2. Its is transitively imported via another file

and `lake exe shake` never attempts to remove imports which are redundant in the second sense (which these are). I further believe that part of the reason for this is that if we aggressively remove all such imports, then the set of imports becomes a bit more brittle to refactors.

One could perhaps make a case for removing these imports but I think we should just leave them as they are until / unless we decided to alter the practice for how to handle such redundant imports repo-wide.

**Review by ocfnash — APPROVED** [review]
Very nice: thanks to both author and reviewer!

Please restore the imports and then feel free to merge.

bors d+
